US07713994B2
A mixture of 4-methyl-1-(3-thienyl)pyridin-2(1H)-one (0.73 g, 3.8 mmol), tert-butoxybis(dimethylamino)methane (3 mL, 15 mmol), and N,N-dimethylformamide (4 mL) is heated in a 100° C. oil bath for 3 hours and then concentrated to dryness under reduced pressure. A quantitative yield of 4-(2-dimethylamino-vinyl)-1-thiophen-3-yl-1H-pyridin-2-one is carried on without further purification.

reactant | 4-methyl-1-(3-thienyl)pyridin-2(1H)-one | 3.8 mmol, 0.73 g | CC1=CC(N(C=C1)C1=CSC=C1)=O | C10H9NOS
reactant | tert-butoxybis(dimethylamino)methane | 15 mmol, 3 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(2-dimethylamino-vinyl)-1-thiophen-3-yl-1H-pyridin-2-one | quantitative yield | CN(C=CC1=CC(N(C=C1)C1=CSC=C1)=O)C | C13H14N2OS
